US09340527B2
To a stirring mixture of methyl 1-(6-hydroxy-2-naphthoyl)piperidine-4-carboxylate (500 mg, 1.59 mmol), cis-4-(t-butyl)cyclohexanol (487 mg, 3.18 mmol, 2 equiv) and PPh3 (833 mg, 3.18 mmol, 2 eq) in THF (5 mL) was added DIAD (642 g, 3.18 mmol, 2 eq) at room temperate under N2 atmosphere, then the mixture was stirred at 80° C. for 12 h. The reaction mixture was diluted with ethyl acetate (20 mL) and washed with water (5 mL*3). The organic solvent was removed in vacuum and the residue was purified by silica gel chromatography (petroleum ether:ethyl acetate=1:1) to give methyl 1-(6-(trans-4-tert-butylcyclohexyloxy)-2-naphthoyl)piperidine-4-carboxylate (230 mg, yield: 32%) as a yellow solid. ESI-MS (M+1)+: 453.2. 1HNMR (400 MHz, CDCl3) δ: 7.76-7.70 (m, 3H), 7.43 (d, 1H), 7.18 (d, 1H), 7.16 (s, 1H), 4.32-4.26 (m, 1H), 3.71 (s, 3H), 3.08-3.06 (m, 2H), 2.60-2.58 (m, 1H), 2.28-2.26 (m, 2H), 1.91-1.88 (m, 4H), 1.67-1.65 (m, 4H), 1.29-1.26 (m, 2H), 1.12-1.11 (m, 3H), 0.88 (s, 9H).

reactant | methyl 1-(6-hydroxy-2-naphthoyl)piperidine-4-carboxylate | 1.59 mmol, 500 mg | OC=1C=C2C=CC(=CC2=CC1)C(=O)N1CCC(CC1)C(=O)OC | C18H19NO4
reactant | cis-4-(t-butyl)cyclohexanol | 3.18 mmol, 487 mg, 2 equiv | C(C)(C)(C)[C@H]1CC[C@H](CC1)O | C10H20O
reactant | PPh3 | 3.18 mmol, 833 mg, 2 eq | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | DIAD | 3.18 mmol, 642 g, 2 eq | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
product | methyl 1-(6-(trans-4-tert-butylcyclohexyloxy)-2-naphthoyl)piperidine-4-carboxylate | 230 mg, yield: 32% | C(C)(C)(C)[C@@H]1CC[C@H](CC1)OC=1C=C2C=CC(=CC2=CC1)C(=O)N1CCC(CC1)C(=O)OC | C28H37NO4
